US07300931B2
4-(3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl)morpholine:
A 10 mL microwave reaction tube with septum closure was charged with 4-(4-bromo-3-fluorobenzyl)morpholine (405 mg, 1.48 mmol),Bis(pinacolato)diboron (516 mg, 2.03 mmol), Pd(dppf)Cl2.CH2Cl2 (62 mg, 0.076 mmol), potassium acetate (659 mg, 6.72 mmol), and DMF (3.6 mL). The vial was placed under nitrogen by evacuation/backfilling (5 cycles) and stirred at 80° C. for 8 hours. The reaction was cooled, diluted with ethyl acetate (25 mL) and filtered. The organics were washed with water (25 mL) and saturated sodium chloride (25 mL). The organic layer was then dried over MgSO4 and concentrated to a dark oil. The product was purified by silica gel chromatography eluting with 2% MeOH in CHCl3 to give 310 mg (65%) of an off-white solid.

reactant | 4-(4-bromo-3-fluorobenzyl)morpholine | 1.48 mmol, 405 mg | BrC1=C(C=C(CN2CCOCC2)C=C1)F | C11H13BrFNO
reactant | Bis(pinacolato)diboron | 2.03 mmol, 516 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | CH2Cl2 | 0.076 mmol, 62 mg | C(Cl)Cl | CH2Cl2
reactant | potassium acetate | 6.72 mmol, 659 mg | C(C)(=O)[O-].[K+]
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMF | 3.6 mL | CN(C)C=O | C3H7NO
product | 4-(3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl)morpholine | 310 mg, 65% | FC=1C=C(CN2CCOCC2)C=CC1B1OC(C(O1)(C)C)(C)C | C17H25BFNO3
